data/mechanisms/records/IMS8-EQ8.2b.json
{"mechanism_id": "IMS8-EQ8.2b", "species": [{"species_id": "hexan_2_one_molecular_ion", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH2:4][C:5](=[O+:6])[CH3:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "n_butyl_cation", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH2+:4]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "acetyl_radical", "mapped_smiles": "[CH3:7][C:5]=[O:6]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hexan_2_one_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["n_butyl_cation", "acetyl_radical"]}], "steps": [{"step_id": "step_inductive_2_1", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_b", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_2_1", "support_type": "textbook_proposed", "locator": {"page": 138, "equation": "8.2", "figure": null, "panel": null, "section": "Eq. 8.2, arrow 2.1, inductive (charge migration)"}, "confidence": 0.8, "curator_note": "Charge-migration (inductive, 'i') cleavage of the same C4-C5 bond, but with the charge retained on the alkyl fragment: gives the n-butyl cation C4H9+ (m/z 57, 10%) plus the neutral acetyl radical CH3-C(.)=O. Book draws 0 electron-pushing arcs: Eq. 8.2 is a thermochemical fragmentation map (log k printed above each reaction arrow, heats of formation printed below each species), not a curved-arrow figure. All electron moves here are curator-inferred from the mechanism-type label printed under the reaction arrow; none is drawn on the page. Encoded as TWO fishhooks that split the C4-C5 sigma pair heterolytically toward the carbonyl: move<1> one electron onto C5 (the new acyl radical site), move<2> the other electron onto O6 where it pairs with the pre-existing odd electron (quenching the O radical and neutralising O+); C4 is thereby left electron-deficient as the butyl cation."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_57", "species_id": "n_butyl_cation", "step_id": "step_inductive_2_1", "observed_mz": 57.0699, "relative_intensity": 0.1, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
